US07067537B2
Production of 3-[4-(4-ethylpyridin-3-yl)-1,3-thiazol-2-yl]benzenesulfonamide
By the reaction in the same manner as in Example 25-iii) using 2-bromo-1-(4-ethylpyridin-3-yl)ethanone hydrobromate (161 mg) and 3-(aminosulfonyl)benzenecarbothioamide (110 mg), the title compound (67 mg) was obtained as colorless powder crystals.

reactant | 2-bromo-1-(4-ethylpyridin-3-yl)ethanone | 161 mg | BrCC(=O)C=1C=NC=CC1CC | C9H10BrNO
reactant | 3-(aminosulfonyl)benzenecarbothioamide | 110 mg | NS(=O)(=O)C=1C=C(C=CC1)C(N)=S | C7H8N2O2S2
product | 3-[4-(4-ethylpyridin-3-yl)-1,3-thiazol-2-yl]benzenesulfonamide | 67 mg | C(C)C1=C(C=NC=C1)C=1N=C(SC1)C=1C=C(C=CC1)S(=O)(=O)N | C16H15N3O2S2
